Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache, dizziness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ who presented to OSH with complaints of headaches and
"coughing". OSH also endorses that patient had nausea and
vertigo. He states that his headache was posterior in nature, 
and
was relieved with the medications given at the OSH. He is
currently asymptomatic. 

A ___ and CTA were obtained and showed an unruptured cerebral
aneurysm. He was sent to ___ for further evaluation and
management. 
 
Past Medical History:
Stroke - ___ years ago 
HTN
HLD
Known basilar cerebral aneurysm
 
Social History:
___
Family History:
NC
 
Physical Exam:
ON ADMISSION:
************
PHYSICAL EXAM:
O: T: 97.8  BP: 148/75   HR: 56   R: 20   O2Sats: 93% on RA 
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 3-2mm bilaterally          EOMs intact 
L eye - "blurriness" residual from previous stroke
Neck: Supple - full ROM noted 
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3mm to 2mm
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing impaired - L ear with hearing aid - R ear
completely deaf
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. No pronator drift. 
RUE 4+/5
LUE ___
RLE 4+/5
LLE ___
Pt states that his right sided deficits are from his previous
stroke ___ years ago. 

Sensation: Intact to light touch bilaterally.

ON DISCHARGE:
************
Exam:
Patient is deaf, requires L hearing aid. 

Opens eyes: [ ]Spontaneous [x]To voice [ ]To noxious
Orientation: [x]Person [x]Place [x]Time (Month)
Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL
EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]No
Tongue Midline: [x]Yes [ ]No
Pronator Drift: [ ]Yes [x]No    
 Speech Fluent: [x]Yes [ ]No
Comprehension Intact: [x]Yes [ ]No

Motor:
LUE/LLE: ___+/5 - stable, residual weakness from prior stroke
RLE: ___

Sensation:
Intact to light touch bilaterally

 
Pertinent Results:
See OMR.
 
Brief Hospital Course:
___ male transferred from OSH where he presented with 
headache as well as an acute episode of nausea and dizziness. 
CTA head/neck revealed a basilar aneurysm, so he was transferred 
to ___ for escalation of care. On arrival to the ___ 
ED, the patient was back to his neurologic baseline and denied 
any current nausea or dizziness. He endorsed a continued 
headache, although it was significantly improved with Tylenol. 
The patient was initially admitted to the ___ with the plan to 
take him for a diagnostic angiogram, but per conversation with 
his family, it was discovered that his aneurysm has been known 
for some time. No intervention was indicated, as it is already 
partially thrombosed. He was instead admitted to the floor for 
overnight observation to ensure that his presenting symptoms had 
resolved. He was kept on his home medications, including Aspirin 
and Plavix. On ___, he endorsed a slight headache, but no 
dizziness or nausea. Social work was consulted as he stated he 
only ate one meal a day at home, so he was provided with 
information for elder services. He remained neurologically 
intact and at his baseline throughout his admission, and was 
discharged home on ___. No neurosurgery follow-up indicated. He 
should follow-up with a Neurologist outpatient for his history 
of strokes.
 
Medications on Admission:
Amlodipine 5mg daily 
Aspirin 81mg daily 
Atorvastatin 80mg daily 
Clopidogrel 75mg daily 
Cyanocobalamin 1000mcg daily 
Ferrous Sulfate 325mg daily 
Fish Oil 1000mg daily 
Folic acid 1mg daily 
Hydralazine 50mg BID 
Isosorbide mononitrate CR 30BID 
Metoprolol Succinate 100mg BID 
Nitroglycerin 0.4mg prn 
Pantoprazole 20mg daily 
Potassium chloride 10meq daily 
Pyridoxine 50mg every evening 
Pyridoxine 100mg every morning
Ranolazine CR 500mg BID 
Sertaline 100mg daily 
Torsemide 20mg every ___ and ___ 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  amLODIPine 5 mg PO HS  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Clopidogrel 75 mg PO DAILY  
6.  HydrALAZINE 50 mg PO BID  
7.  Isosorbide Mononitrate (Extended Release) 30 mg PO BID  
8.  Metoprolol Succinate XL 50 mg PO BID  
9.  Pantoprazole 20 mg PO Q24H  
10.  Ranolazine ER 500 mg PO BID  
11.  Sertraline 100 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Known partially thrombosed basilar cerebral aneurysm
Headache

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires aid (walker or cane).

 
Discharge Instructions:
Activity:
• You are cleared to resume your normal activities without any 
restrictions. 

Medications:
• Resume ALL of your normal medications, including your Aspirin 
and Plavix. 
• You may use Acetaminophen (Tylenol) and NSAIDs for continued 
headaches if you are not otherwise restricted from taking this 
medication.

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg.
• Sudden confusion or trouble speaking or understanding.
• Sudden trouble walking, dizziness, or loss of balance or 
coordination.
• Sudden severe headaches with no known reason.

 
Followup Instructions:
___